US07612114B2
(R)-6-{2-{[6-(2-Azepan-1-ylethoxy)pyridin-3-ylmethyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) and 6-(2-azepan-1-ylethoxy)nicotinic acid hydrochloride (60 mg) according to an analogous synthetic method to Example 337 described below and purified by LC-MS, the title compound (26 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 6-(2-azepan-1-ylethoxy)nicotinic acid hydrochloride | 60 mg | Cl.N1(CCCCCC1)CCOC1=NC=C(C(=O)O)C=C1
product | (R)-6-{2-{[6-(2-Azepan-1-ylethoxy)pyridin-3-ylmethyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 26 mg | N1(CCCCCC1)CCOC1=CC=C(C=N1)CN(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC | C34H45N3O4
